US06881733B1
1-benzyl-2,4-dioxo-3,3-dimethylpiperidine
A mixture of 1.44 gm (7.1 mMol) 1-benzyl-2,4-dioxopiperidine, 4.0 gm (28.9 mMol) potassium carbonate, and 1.5 mL (24.1 mMol) iodomethane in 14 mL dimethylsulfoxide was stirred for 24 hours. The reaction mixture was diluted with ethyl acetate and water. The phases were separated and the organic phases was washed sequentially with water and saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with hexane containing 35% ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 0.61 gm (37%) of the desired compound.

reactant | 1-benzyl-2,4-dioxopiperidine | 7.1 mMol, 1.44 gm | C(C1=CC=CC=C1)N1C(CC(CC1)=O)=O | C12H13NO2
reactant | potassium carbonate | 28.9 mMol, 4.0 gm | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 24.1 mMol, 1.5 mL | IC | CH3I
solvent | dimethylsulfoxide | 14 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-benzyl-2,4-dioxo-3,3-dimethylpiperidine | 0.61 gm, 37% | C(C1=CC=CC=C1)N1C(C(C(CC1)=O)(C)C)=O | C14H17NO2
